US05455274
A stirred solution of 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide (1.0 g, 2.36 mmol) in 10.0 mL of N,N-dimethylformamide is treated with 60% sodium hydride (100 mg, 2.59 mmol) and ethyl bromoacetate (290 μL, 2.59 mmol), and the mixture is heated at 70° C. overnight; the reaction is partitioned between ethyl acetate and water, dried over sodium sulfate and concentrated in vacuo to afford a yellow foam. This material is purified by chromatography on silica gel (30 g) with 40-50% ethyl acetate/hexane as the eluent to afford ethyl 5-[5-(4-cyanophenoxy )pentyloxy]-2-[N,N-bis(1-methylethyl)aminocarbonyl]phenoxyacetate as a colorless foam.

reactant | 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide | 2.36 mmol, 1.0 g | C(#N)C1=CC=C(OCCCCCOC2=CC(=C(C(=O)N(C(C)C)C(C)C)C=C2)O)C=C1 | C25H32N2O4
reactant | sodium hydride | 2.59 mmol, 100 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 2.59 mmol, 290 μL | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 10.0 mL | CN(C=O)C | C3H7NO
product | ethyl 5-[5-(4-cyanophenoxy )pentyloxy]-2-[N,N-bis(1-methylethyl)aminocarbonyl]phenoxyacetate | C(#N)C1=CC=C(OCCCCCOC=2C=CC(=C(OCC(=O)OCC)C2)C(=O)N(C(C)C)C(C)C)C=C1 | C29H38N2O6
